US06313312B1
1-Adamantyl-2-iodoethane
To a solution of 2-adamantylethyl 4-bromobenzenesulfonate (Preparation 92, 1.0 g, 2.5 mmol) in acetone (25 ml) was added sodium iodide (0.75 g, 5 mmol) and the reaction mixture was left to stir at room temperature for 72 h. The resulting precipitate was filtered and the filtratc was diluted with water (100 ml) and extracted with dichlioromethane (100 ml). The extract was washed with brine (100 ml), dried (MgSO4) and concentrated in vacuo to give the title compound as a white crystalline solid (0.54 g, 75%).

reactant | 2-adamantylethyl 4-bromobenzenesulfonate | 2.5 mmol, 1.0 g | BrC1=CC=C(C=C1)S(=O)(=O)OCCC1C2CC3CC(CC1C3)C2 | C18H23BrO3S
reactant | sodium iodide | 5 mmol, 0.75 g | [I-].[Na+]
reactant | acetone | 25 ml | CC(=O)C | C3H6O
product | 1-Adamantyl-2-iodoethane | 0.54 g, 75% | C12(CC3CC(CC(C1)C3)C2)CCI | C12H19I
